US08420655B2
To a solution of 4-chloro-2-formylphenylboronic acid (200 mg, 1.09 mmol) in DMF (10 mL) are added pyrazole (88 mg, 1.3 mmol), Cu(OAc)2 (295 mg, 1.6 mmol), pyridine (171 mg, 2.2 mmol) and molecular sieve (200 mg) at room temperature. The mixture is stirred for 48 hours with open cap. The mixture is filtered through a short pad of diatomaceous earth (2 g) rinsing with MeOH (10 mL). The combined filtrate is extracted with H2O (15 mL) and EtOAc (3×10 mL). The combined organic layer is dried with MgSO4 and filtered. The filtrate is concentrated and the residue is purified by silica gel flash column chromatography eluting with 10% EtOAc in heptane to afford 5-chloro-2-pyrazol-1-yl-benzaldehyde (50 mg, 22%) as a white solid.

reactant | 4-chloro-2-formylphenylboronic acid | 1.09 mmol, 200 mg | ClC1=CC(=C(C=C1)B(O)O)C=O | C7H6BClO3
reactant | pyrazole | 1.3 mmol, 88 mg | N1N=CC=C1 | C3H4N2
reactant | pyridine | 2.2 mmol, 171 mg | N1=CC=CC=C1 | C5H5N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Cu(OAc)2 | 1.6 mmol, 295 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 5-chloro-2-pyrazol-1-yl-benzaldehyde | 50 mg, 22% | ClC=1C=CC(=C(C=O)C1)N1N=CC=C1 | C10H7ClN2O
